US06004959
1-Amino-5-(2-diethylamino-ethoxy)-2,4-dimethoxy-fluoren-9-one hydrochloride
Prepare a mixture of 5-(2-diethylamino-ethoxy)-2,4-dimethoxy-1-nitro-fluoren-9-one (0.08 g, 0.18 mmole) and stannous chloride dihydrate (SnCl2.2H2O, 0.80 g, 3.5 mmole) in 20 mL ethanol. Heat at 70° C. under argon overnight. Dilute with about 60 mL water and make slightly basic by addition of 5% sodium bicarbonate. Extract the precipitate with ethyl acetate and dry over magnesium sulfate. Filter and evaporate the solvent. Make acidic (to pH=2) with 5% hydrochloric acid and extract the organics. Make the aqueous phase basic (to pH=8) and extract with methylene chloride. Dry over magnesium sulfate. Filter and evaporate the solvent to obtain a red oil. Chromatron with 7% methanol in methylene choride and condense under high vacuum to obtain the free base of the title compound (0.48 g). m.p. 208°-210° C.

reactant | 5-(2-diethylamino-ethoxy)-2,4-dimethoxy-1-nitro-fluoren-9-one | 0.18 mmole, 0.08 g | C(C)N(CCOC1=C2C=3C(=CC(=C(C3C(C2=CC=C1)=O)[N+](=O)[O-])OC)OC)CC | C21H24N2O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | CO | CH4O
reactant | methylene choride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | about 60 mL | O | H2O
product | 1-Amino-5-(2-diethylamino-ethoxy)-2,4-dimethoxy-fluoren-9-one hydrochloride | 0.48 g | Cl.NC1=C(C=C(C=2C3=C(C=CC=C3C(C12)=O)OCCN(CC)CC)OC)OC | InChI=1S/C21H26N2O4.ClH/c1-5-23(6-2)10-11-27-14-9-7-8-13-17(14)18-15(25-3)12-16(26-4)20(22)19(18)21(13)24;/h7-9,12H,5-6,10-11,22H2,1-4H3;1H
